US08957074B2
In a mortar and pestle 6-chloro-pyridazin-3-ylamine (100 mg, 0.772 mmol) and 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (180 mg, 0.849 mmol) were grounded together, placed in a sealed tube and heated to 130° C. for 16 h. The reaction was allowed to cool to room temperature and then the contents were dissolved in a minimal amount of dichloromethane. The crude product was purified by silica gel chromatography using a 0-50% ethyl acetate heptane gradient which gave 3-(6-amino-pyridazin-3-yl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (70.7 mg, 0.232 mmol) in 30% yield.

reactant | 6-chloro-pyridazin-3-ylamine | 0.772 mmol, 100 mg | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.849 mmol, 180 mg | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(6-amino-pyridazin-3-yl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.232 mmol, 70.7 mg, 30% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C=2N=NC(=CC2)N | C15H23N5O2
